US04716169
6-(2-Methoxy-4-methylsulphonyloxy-phenyl)-imidazo[2,1-f][1,2,4]triazine
55 mg (0.227 mmol) of 6-(2-Methoxy-4-hydroxyphenyl)-imidazo[2,1-f][1,2,4]triazine are dissolved in 12 ml of 1N sodium hydroxide solution. 0.2 ml of methanesulphonic acid chloride are added to the clear yellowish-orange solution and the resulting mixture is stirred for 21/2 hours at ambient temperature. The reaction solution is then adjusted to pH 6 with 1N hydrochloric acid and extracted three times, each time with 25 ml of ethyl acetate. The ethyl acetate phase is dried over sodium sulphate and concentrated by evaporation. The residue obtained is dissolved in methylene chloride and applied to a silica gel column, eluting first with methylene chloride and later with methylene chloride/ethanol (50:1). The desired eluates are concentrated by evaporation, then triturated with ether/petroleum ether (1:1) and the crystals obtained are suction filtered.

reactant | 6-(2-Methoxy-4-hydroxyphenyl)-imidazo[2,1-f][1,2,4]triazine | 0.227 mmol, 55 mg | COC1=C(C=CC(=C1)O)C=1N=C2C=NC=NN2C1 | C12H10N4O2
reactant | methanesulphonic acid chloride | 0.2 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 1N, 12 ml | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-(2-Methoxy-4-methylsulphonyloxy-phenyl)-imidazo[2,1-f][1,2,4]triazine | COC1=C(C=CC(=C1)OS(=O)(=O)C)C=1N=C2C=NC=NN2C1 | C13H12N4O4S
